US07906645B2
N-(3,4-Dichlorophenyl)-4-{[(2R)-4-isopropylpiperazin-2-yl]carbonyl}piperazine-1-carboxamide
N-(3,4-Dichlorophenyl)piperazine-1-carboxamide hydrochloride (251 mg) and (2R)-1-(tert-Butoxycarbonyl)-4-isopropylpiperazine-2-carboxylic acid (200 mg) were dissolved in dry THF (10 mL) followed by addition of N,N-di-isopropylethylamine (0.26 ml) and HATU (335 mg) and the reaction was stirred for 4 h. A further 0.26 ml of N,N-di-iso-propylamine was added and the reaction was stirred for 18 h at rt. The solvent was evaporated under reduced pressure then redissolved in dichloromethane (50 ml) followed by washing with sat. aqueous NaHCO3 (20 ml). The organic layer was separated on a phase separation cartridge and evaporated. Purification by chromatography (3-10% methanol:dichloromethane) afforded the crude product (180 mg) as a foam which was used without further purification. The foam was then dissolved in TFA/DCM (1:1, 10 ml) and stirred for 30 mins. The solvent was removed under reduced pressure then taken up in 1M. aqueous sodium hydroxide (30 ml) and extracted with dichloromethane (2×30 ml). The organic layer was separated on a phase separation cartridge and evaporated. Purification by chromatography (5-25% MeOH:DCM) afforded the title compound (95 mg) as a white foam

reactant | N-(3,4-Dichlorophenyl)piperazine-1-carboxamide hydrochloride | 251 mg | Cl.ClC=1C=C(C=CC1Cl)NC(=O)N1CCNCC1
reactant | (2R)-1-(tert-Butoxycarbonyl)-4-isopropylpiperazine-2-carboxylic acid | 200 mg | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)C(C)C)C(=O)O | C13H24N2O4
reactant | N,N-di-isopropylethylamine | 0.26 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HATU | 335 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-di-iso-propylamine | 0.26 ml | C(C)(C)NC(C)C | C6H15N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N-(3,4-Dichlorophenyl)-4-{[(2R)-4-isopropylpiperazin-2-yl]carbonyl}piperazine-1-carboxamide | 95 mg | ClC=1C=C(C=CC1Cl)NC(=O)N1CCN(CC1)C(=O)[C@@H]1NCCN(C1)C(C)C | C19H27Cl2N5O2
